US07872014B2
A solution of (7-fluoro-2,3-dihydro-1,4-benzodioxine-5-yl)methanol (436 mg, 2.36 mmol) and triethylamine (400 μL, 2.83 mmol) in dichloromethane (20 mL) was cooled to 0° C. and then slowly added thionyl chloride (260 μL, 3.55 mmol) and stirred for 45 min. The reaction mixture was partitioned with water (100 mL) and ethyl acetate (100 mL). The organic layer was washed with aqueous saturated sodium bicarbonate, brine, and then dried over anhydrous magnesium sulfate and concentrated to give crude 5-(chloromethyl)-7-fluoro-2,3-dihydro-1,4-benzodioxine as a colorless oil. The crude residue was taken up in N,N-dimethylformamide (10 mL) and was added potassium cyanide (460 mg, 7.08 mmol). The reaction mixture was heated to 60° C. and stirred for 5 h, at which time it was cooled to room temperature and partitioned with water (100 mL) and ethyl acetate (150 mL). The organic layer was washed with 10% citric acid (3×100 mL) and then aqueous saturated sodium bicarbonate (2×100 mL). The organic solution was further washed with brine, dried over anhydrous magnesium sulfate and concentrated to give 430 mg (94% over 2 steps) of (7-fluoro-2,3-dihydro-1,4-benzodioxin-5-yl)acetonitrile as an off-white powder. GCMS for C10H8FNO2: 193 (M+).

reactant | (7-fluoro-2,3-dihydro-1,4-benzodioxine-5-yl)methanol | 2.36 mmol, 436 mg | FC=1C=C(C2=C(OCCO2)C1)CO | C9H9FO3
reactant | triethylamine | 2.83 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 3.55 mmol, 260 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-7-fluoro-2,3-dihydro-1,4-benzodioxine | ClCC1=CC(=CC=2OCCOC21)F | C9H8ClFO2
